US04185018
18.4 kg (133 moles) of 2-nitroaniline and 0.42 kg (1.3 moles) of tetrabutylammonium bromide are dissolved in 70 kg of toluene. After the addition of 25.3 kg (226 moles) of 50% aqueous potassium hydroxide solution, there is added at 15° to 20° C., during one hour, 110 kg (185 moles) of an aqueous sodium hypochlorite solution. After the addition has been completed, the reaction mixture is allowed to react at 15° to 20° C. for 3 hours, and the aqueous phase is then separated. There is obtained in this manner a solution of benzofurazan-1-oxide in toluene, which solution is suitable for use directly for further reactions, for example for reaction with an acetoacetic acid derivative to the corresponding quinoxaline-1,4-dioxide.

reactant | 2-nitroaniline | 133 moles, 18.4 kg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | potassium hydroxide | 226 moles, 25.3 kg | [OH-].[K+]
reactant | sodium hypochlorite | 185 moles, 110 kg | Cl[O-].[Na+]
catalyst | tetrabutylammonium bromide | 1.3 moles, 0.42 kg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 70 kg | C1(=CC=CC=C1)C | C7H8
product | benzofurazan-1-oxide | [N+]1(=C2C(=NO1)C=CC=C2)[O-] | C6H4N2O2
